US04243408
To a stirred mixture of 16.2 g (0.0688 mol) 2-(2,6-dimethylphenylaminomethyl)-5-mercapto-1,3,4-oxadiazole in 200 ml water and 200 ml dichloromethane was added quickly 2.8 g (0.0688 mol) sodium hydroxide. To the resulting reaction mixture was then added 9.9 g (0.0688 mol) iodomethane. The reaction mixture was stirred at about 25° C. for 1 hour and then heated under reflux for 1 hour. After the reaction mixture was allowed to stand overnight at 25° C., the organic layer was separated, dried over magnesium sulfate, filtered and evaporated under reduced pressure to give a yellow solid. Trituration with ethyl ether/petroleum ether gave 8.8 g of 2-(2,6-dimethylphenylaminomethyl)-5-methylthio-1,3,4-oxadiazole, m.p. 84°-85° C. The product is tabulated in Table I as Compound No. 24-A.

reactant | 2-(2,6-dimethylphenylaminomethyl)-5-mercapto-1,3,4-oxadiazole | 0.0688 mol, 16.2 g | CC1=C(C(=CC=C1)C)NCC=1OC(=NN1)S | C11H13N3OS
reactant | sodium hydroxide | 0.0688 mol, 2.8 g | [OH-].[Na+]
reactant | iodomethane | 0.0688 mol, 9.9 g | IC | CH3I
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(2,6-dimethylphenylaminomethyl)-5-methylthio-1,3,4-oxadiazole | 8.8 g | CC1=C(C(=CC=C1)C)NCC=1OC(=NN1)SC | C12H15N3OS
